US05049236
Methoxy-p-benzoquinone (0.50 g) and 2,3-dimethyl-1,3-butadiene (0.63 ml) were added to 23.0 mL of glacial acetic acid. The mixture was heated at 45° C. for 18.5 hrs. A chromic acid solution consisting of 1.85 g of Na2Cr2O7.2H2O, 1.16 mL water, and 0.09 mL of concentrated H2SO4 was then added, and the temperature was kept at approximately 67° C. for 1 hour. The product was precipitated by the addition of ice water, washed several times with cold water, and then dried over P2O5. A 71% yield (0.557 g) of 2-methoxy-6,7-dimethyl-1,4-naphthoquinone was obtained.

reactant | Methoxy-p-benzoquinone | 0.50 g | COC=1C(C=CC(C1)=O)=O | C7H6O3
reactant | 2,3-dimethyl-1,3-butadiene | 0.63 ml | CC(=C)C(=C)C | C6H10
reactant | chromic acid | [Cr](=O)(=O)(O)O
reactant | H2SO4 | 0.09 mL | OS(=O)(=O)O | H2O4S
solvent | water | 1.16 mL | O | H2O
solvent | acetic acid | 23.0 mL | C(C)(=O)O | C2H4O2
product | 2-methoxy-6,7-dimethyl-1,4-naphthoquinone | 0.557 g, 71% yield | COC=1C(C2=CC(=C(C=C2C(C1)=O)C)C)=O | C13H12O3
